US06277778B1
Dimethylbis(2-(t-hexyldimethylsiloxy)indenyl)silane
To a solution of 2-(t-hexyldimethylsiloxy)indene (35.58 g, 129.6 mmol) in Et2O (120 mL) at 0° C. was added dropwise n-BuLi (52.4 mL of a 2.5 M solution in hexane, 130.9 mmol) and the reaction mixture was stirred overnight at room temperature. The resulting solution was then added dropwise to a solution of dimethyldichlorosilane (7.9 mL, 64.8 mmol) in Et2O (50 mL) at 0° C. The reaction mixture was stirred overnight at room temperature and washed with saturated ammonium chloride solution (300 mL), water (2×200 mL) and dried over sodium sulfate. Evaporation of the solvents left a red oil that was dissolved in a 4:1 mixture of MeOH and acetone. Concentration and cooling to −30° C. gave 11.67 g (29.7%) of the title compound as a white powder. The crystalline first crop consisted exclusively of the racemic diastereomer. EIMS (calcd/found): m/e 604.3588/604.3585. 1H NMR (CDCl3, δ): 7.22-7.13 (m, 6H); 6.98 (td, 3J=7.3 Hz, 4J=1.4 Hz, 2H); 5.85 (s, 2H); 3.99 (s, 2H); 1.72 (sept, 3J=6.9 Hz, 2H); 0.94 (s, 6H); 0.94 (s, 6H); 0.90 (d, 3J=6.9 Hz, 6H); 0.89 (d, 3J=6.9 Hz, 6H); 0.38 (s, 6H); 0.34 (s, 6H); −0.23 (s, 6H). 13C NNR (CDCl3, δ): 164.87; 144.49; 137.53; 125.13; 122.86; 121.38; 118.84; 104.26; 43.15; 33.76; 25.19; 20.17; 20.08; 18.54; 18.45; −2.30; −2.75; −6.73. The oily residue was washed with cold MeOH (3×100 mL) and dried in vacuo to yield 14.02 g (35.8%) of the fairly pure meso diastereomer as a red oil (total yield 65.5%).

reactant | 2-(t-hexyldimethylsiloxy)indene | 129.6 mmol, 35.58 g | C(C)(C)(CCC)[Si](OC=1CC2=CC=CC=C2C1)(C)C | C17H26OSi
reactant | n-BuLi | [Li]CCCC
reactant | dimethyldichlorosilane | 64.8 mmol, 7.9 mL | C[Si](Cl)(Cl)C | C2H6Cl2Si
solvent | Et2O | 120 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | Dimethylbis(2-(t-hexyldimethylsiloxy)indenyl)silane | 11.67 g, 29.7% | C[Si](C1C(=CC2=CC=CC=C12)O[Si](C(C)(C)CCC)(C)C)(C1C(=CC2=CC=CC=C12)O[Si](C)(C)C(C)(C)CCC)C | C36H56O2Si3
